US05124336
81.9 g of 4-(dioxolan-2-yl)-3,3-dimethylbutanol, prepared above, are dissolved in 600 ml of chloroform, stabilized with amylene, in the presence of 62 ml of triethylamine. The mixture is cooled to 5° C. and 81 ml of mesyl chloride are added dropwise. The mixture is subsequently stirred for 4 hours at 5° C. and then left overnight at this temperature, washed with cold water and evaporated at 30° C. under vacuum. The residue obtained is taken up with ether and washed with sodium bicarbonate. The ether phase is dried over magnesium sulfate and then evaporated at 30° C. under vacuum to give 93.5 g of 4-(dioxolan-2-yl)-3,3-dimethylbutanol mesylate.

reactant | 4-(dioxolan-2-yl)-3,3-dimethylbutanol | 81.9 g | O1C(OCC1)CC(CCO)(C)C | C9H18O3
reactant | amylene | CC=C(C)C | C5H10
reactant | triethylamine | 62 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 81 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
product | 4-(dioxolan-2-yl)-3,3-dimethylbutanol mesylate | 93.5 g | S(C)(=O)(=O)OCCC(CC1OCCO1)(C)C | C10H20O5S
